US07594594B2
1-cyclohexylethan-1-yl butyrate;
1-cyclohexylethan-1-yl acetate; 1-cyclohexylethan-1-ol;

reactant | 1-cyclohexylethan-1-yl acetate | C(C)(=O)OC(C)C1CCCCC1 | C10H18O2
reactant | 1-cyclohexylethan-1-ol | C1(CCCCC1)C(C)O | C8H16O
product | 1-cyclohexylethan-1-yl butyrate | C(CCC)(=O)OC(C)C1CCCCC1 | C12H22O2
